US05306728
1.0 g of 3-(3-thienyl)benzaldehyde, 0.5 g of cyanoacetic acid, 15 mg of ammonium acetate and 1 ml of pyridine were dissolved in 1.5 ml of xylene, and the mixture was refluxed for 5.5 hours. The solvent was evaporated, and the residue was dissolved in a mixture of ethyl ether and water, then the resulting solution was acidified with diluted hydrochloric acid. The organic layer separated was worked up in a customary manner, and the product purified by medium-pressure liquid chromatography [silica gel column, hexane/ethyl acetate=7/1→5/1] to give 0.4 g of (E)-3-(3-thienyl)cinnamonitrile as a white powder.

reactant | 3-(3-thienyl)benzaldehyde | 1.0 g | S1C=C(C=C1)C=1C=C(C=O)C=CC1 | C11H8OS
reactant | cyanoacetic acid | 0.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | ammonium acetate | 15 mg | C(C)(=O)[O-].[NH4+]
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | xylene | 1.5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (E)-3-(3-thienyl)cinnamonitrile | 0.4 g | S1C=C(C=C1)C=1C=C(/C=C/C#N)C=CC1 | C13H9NS
